US06344476B1
A solution of the N-methyl-3-amino-5-tert-butylthiophene-2-carboxamide (0.60 g, 2.83 mmol) and 4-methylphenyl isocyanate (0.36 mL, 2.83 mmol) in toluene (2 mL) was heated at the reflux temp. for 18 h. The resulting solution was concentrated under reduced pressure and the resulting solid was purified by flash chromatography (EtOAc/CH2Cl2) affording N-(2-methylcarbamoyl-5-tert-butyl-3-thienyl)-N′-(4-methylphenyl)urea (0.42 g, 44%): mp 202-4° C.; 1H NMR (CDCl3) δ1.38 (s, 9H), 2.31 (s, 3H), 2.91 (d, J=4.9 Hz, 3H), 5.59 (bs, 1H), 7.11 (d, J=8.5 Hz, 2H), 7.29 (d, J=8.5 Hz, 2H), 7.90 (s, 1H), 10.53 (s, 1H).

reactant | N-methyl-3-amino-5-tert-butylthiophene-2-carboxamide | 2.83 mmol, 0.60 g | CNC(=O)C=1SC(=CC1N)C(C)(C)C | C10H16N2OS
reactant | 4-methylphenyl isocyanate | 2.83 mmol, 0.36 mL | CC1=CC=C(C=C1)N=C=O | C8H7NO
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-methylcarbamoyl-5-tert-butyl-3-thienyl)-N′-(4-methylphenyl)urea | 0.42 g, 44% | CNC(=O)C=1SC(=CC1NC(=O)NC1=CC=C(C=C1)C)C(C)(C)C | C18H23N3O2S
